* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 0 N001 15
R2 N003 0 15k
R3 N001 N002 1.5k
R4 N001 N003 47
R5 N002 0 180
R1 N003 N002 25k

.end